US07615642B2
Step A. (2R)-4-({2-tert-butyl-1-[(4,4-difluorocyclohexyl)methyl]-1H-benzimidazol-5-yl}sulfonyl)-N-cyclopropylmorpholine-2-carboxamide
2-tert-Butyl-1-[(4,4-difluorocyclohexyl)methyl]-1H-benzimidazole-5-sulfonyl chloride (1.1 g, 2.7 mmol) was added to a solution of 2-[(cyclopropylamino)carbonyl]morpholin-4-ium trifluoroacetate (0.92 g, 3.2 mmol) (see the following step B for preparation) and DIPEA (1.5 mL, 8.1 mmol) in DCE at 80° C. The reaction mixture was stirred for 1 h and washed with saturated NaHCO3 solution, water and brine. The solvent was concentrated to provide the racemic title compound as white solid. The enantiomers were separated by chiral preparative HPLC to provide the title compounds.

reactant | 2-tert-Butyl-1-[(4,4-difluorocyclohexyl)methyl]-1H-benzimidazole-5-sulfonyl chloride | 2.7 mmol, 1.1 g | C(C)(C)(C)C1=NC2=C(N1CC1CCC(CC1)(F)F)C=CC(=C2)S(=O)(=O)Cl | C18H23ClF2N2O2S
reactant | 2-[(cyclopropylamino)carbonyl]morpholin-4-ium trifluoroacetate | 3.2 mmol, 0.92 g | FC(C(=O)[O-])(F)F.C1(CC1)NC(=O)C1C[NH2+]CCO1
reactant | DIPEA | 8.1 mmol, 1.5 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DCE | ClCCCl | C2H4Cl2
product | (2R)-4-({2-tert-butyl-1-[(4,4-difluorocyclohexyl)methyl]-1H-benzimidazol-5-yl}sulfonyl)-N-cyclopropylmorpholine-2-carboxamide | C(C)(C)(C)C1=NC2=C(N1CC1CCC(CC1)(F)F)C=CC(=C2)S(=O)(=O)N2C[C@@H](OCC2)C(=O)NC2CC2 | C26H36F2N4O4S
